US07576215B2
4-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)PHENYL]BUTANOIC ACID
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 4-(4-amino-phenyl)-butyric acid according to the procedure of Example 66. MS (ES) m/z 567.0.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 4-(4-amino-phenyl)-butyric acid | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
product | 4-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)PHENYL]BUTANOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(CNC2=CC=C(C=C2)CCCC(=O)O)C=CC1)C(F)(F)F | C34H27F3N2O3
